US03992544
1,5-Dibenzyl-4,5,6,7-tetrahydro-2-methyl-1H-pyrrolo[3,2-c]pyridine
Using a procedure analogous to Example 3, 3-acetonyl-1-benzyl-4-piperidone may be reacted with benzylamine to give the title compound.

reactant | 3-acetonyl-1-benzyl-4-piperidone | C(C(=O)C)C1CN(CCC1=O)CC1=CC=CC=C1 | C15H19NO2
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | 1,5-Dibenzyl-4,5,6,7-tetrahydro-2-methyl-1H-pyrrolo[3,2-c]pyridine | C(C1=CC=CC=C1)N1C(=CC=2CN(CCC21)CC2=CC=CC=C2)C | C22H24N2
